2200-03-17 23:39:00 Physician Attending Progress Note
Chief Complaint: shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63M coughing, CXR with LLL pna, BP fell and hypoxemia worsened. In ER
   he was intubated, BP fell and levophed started. CXR showed multifocal
   pna.
   24 Hour Events:
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   CVA
   HTN
   CDiff requiring colectomy
   hypothyroid
   AF
   DM
   PVD
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea
   Flowsheet Data as of  [**2200-3-17**] 11:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 60 (60 - 76) bpm
   BP: 78/36(46) {78/36(46) - 125/57(116)} mmHg
   RR: 16 (16 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             518 mL
   PO:
             TF:
   IVF:
   518 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     60 mL
   Urine:
   60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8.4 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: peg and ileostomy
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   0.7
   27
   12
        [image002.jpg]
   Other labs: PT / PTT / INR://2.4, Lactic Acid:0.9
   Imaging: CXR L > R infiltrates, IJ and ETT in place
   Assessment and Plan
   shock, respiratory failure, pneumonia - on abx, receiving IVF, wean
   pressors as tolerated, check ABG
   DM - on insulin
   AF - INR therapeutic, hold coumadin for now, beat-blocker as needed
   psych, chronic pain - hold outpatient regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-17**] 11:10 PM
   18 Gauge - [**2200-3-17**] 11:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2200-03-18 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2200-3-17**] 10:45 PM
 MULTI LUMEN - START [**2200-3-17**] 11:10 PM
   - IVF boluses to wean pressors and for low urine output
   - CVP of 4 --> given fluids
   - will need Abx approval in the morning
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-18**] 06:33 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-18**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 67 (60 - 76) bpm
   BP: 114/49(66) {78/36(46) - 125/57(116)} mmHg
   RR: 16 (12 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 8 (6 - 10)mmHg
   Total In:
                                                                  3,537 mL
                                                                  2,634 mL
   PO:
   TF:
   IVF:
                                                                    537 mL
                                                                  2,634 mL
   Blood products:
   Total out:
                                                                     60 mL
                                                                    185 mL
   Urine:
                                                                     60 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,477 mL
                                                                  2,449 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   SpO2: 100%
   ABG: 7.34/42/120/23/-2
   Ve: 8 L/min
   PaO2 / FiO2: 240
   Physical Examination
   GEN: intubated, sedated
   CV: RRR s mrg
   RESP: rhonchorous throughout, no rales or wheezes appreciated
   ABD: ileostomy present, site c/d/i.  Abdomen NT/ND, +BS.
   EXT: cool, well perfused, 2+ pulses.  Contracted, stiff.
   Labs / Radiology
   210 K/uL
   10.2 g/dL
   164 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.7 mEq/L
   18 mg/dL
   110 mEq/L
   144 mEq/L
   32.2 %
   17.1 K/uL
        [image002.jpg]
                             [**2200-3-18**]  12:00 AM
                             [**2200-3-18**]  04:35 AM
                             [**2200-3-18**]  05:56 AM
   WBC
   17.1
   Hct
   32.2
   Plt
   210
   Cr
   0.6
   TCO2
   26
   24
   Glucose
   164
   Other labs: PT / PTT / INR:24.3/39.1/2.3, ALT / AST:25/26, Alk Phos / T
   Bili:66/0.7, Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %,
   Eos:0.4 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L,
   Ca++:6.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Micro: sputum cx [**3-17**] shows nothing on gram stain.
   Assessment and Plan
   63 yo M with HTN, DM2, hypothyroidism, AF on AC, p/w PNA c/b intubation
   and hypotension on pressors
   # respiratory failure - Patient intubated for hypoxia (90% on NRB) and
   for "airway protection".  CXR shows left sided infiltrate. Possibly,
   heathcare associated PNA. Right main stem is difficult to visualize
   indicating possible obstruction.
   - bronch for possible obstruction
   - vanc/zosyn D2/8 for HAP (patient lives in [**Location 122**]);
   - wean sedation as tolerated
   - wean vent as tolerated
 transitioned to PS; monitor ABG
s, try a SBT
   as sedation is weaned
   - sputum cx
   # hypotension - Likely secondary to sepsis.  Normal lactate; afebrile
   and pressor dependence decreasing with fluid ressucitation
   - aggressive IVF, titrate to serial CVP
   - continue levophed as needed, wean if tolerated as CVP improves
   - monitor UOP
   - holding antihypertensives (lisinopril, metoprolol)
   # DM2
 SSI
   # AF
 Currently in NSR; INR therapeutic on admission. Is 2.3 on [**3-18**]
   - holding coumadin for now, can start heparin gtt when INR < 2.0
   - holding metoprolol
   # hypothyroidism
 Continue levothyroxine.
   # ileostomy
 Recent colectomy and ileostomy [**1-21**] severe C. diff.  Site
   appears c/d/i on physical exam.
   # depression
 Holding cymbalta, mirtazapine.
   # pain - Hold gabapentin 300 mg TID, baclofen 20 mg QID, morphine 15 mg
   QID, fentanyl as patient currently on fentanyl drip.
   - try to find out the cause; could call [**First Name4 (NamePattern1) 956**] [**Last Name (NamePattern1) 772**] or discuss with
   family
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: therapeutic INR, but will need HSQ as INR drifts down.
   Starting H2 blocker
   # Access: peripherals and right IJ
   # Code:  Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of respiratory failure
   requiring mechanical ventilation and hypotension requiring pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-17**] 11:10 PM
   18 Gauge - [**2200-3-17**] 11:12 PM
   Prophylaxis:
   DVT: therapeutic INR
   Stress ulcer:
   VAP:  on antibiotics for HAP
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:

2200-03-19 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2200-3-18**] 01:16 PM
 FEVER - 101.2
F - [**2200-3-18**] 08:00 PM
   - decreased sedation to boluses instead of gtts
   - CXR: Worsening left perihilar pneumonia, with progressive bibasilar
   atelectasis and effusions.
   - added H2 blocker
   - Bronch: sucked out lots of white pus; consider extubate tomorrow if
   tolerates but not today given secretions
   - had lots of sedation, did not wean down levo, on bolus sedation to
   try to help this
   - f/u on bronch cx sent, after extubate consider stop abx.
   - had a fever to 101, cultured and given tylenol, but likely due to
   bronch.
   - thick secretions noted in ET tube (pus/thick yellow), require zyprexa
   prn to sedate - pt chew on et tube.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-19**] 12:00 AM
   Vancomycin - [**2200-3-19**] 07:35 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2200-3-19**] 07:35 AM
   Ranitidine (Prophylaxis) - [**2200-3-19**] 07:35 AM
   Midazolam (Versed) - [**2200-3-19**] 07:35 AM
   Fentanyl - [**2200-3-19**] 07:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-19**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.2
C (98.9
   HR: 123 (68 - 133) bpm
   BP: 122/76(85) {90/52(61) - 156/84(98)} mmHg
   RR: 22 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.4 kg (admission): 75.8 kg
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                  4,040 mL
                                                                    394 mL
   PO:
   TF:
   IVF:
                                                                  4,040 mL
                                                                    394 mL
   Blood products:
   Total out:
                                                                  1,605 mL
                                                                    580 mL
   Urine:
                                                                  1,405 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,435 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 464 (330 - 654) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 13.8 L/min
   Physical Examination
   GEN: intubated, arosable.
   CV: RRR s mrg
   RESP: rhonchorous throughout, no rales or wheezes appreciated
   ABD: ileostomy present, site c/d/i.  Abdomen NT/ND, +BS.
   EXT: cool, well perfused, 2+ pulses.  Contracted, stiff.
   Labs / Radiology
   172 K/uL
   9.3 g/dL
   127 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.2 mEq/L
   7 mg/dL
   111 mEq/L
   144 mEq/L
   29.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2200-3-18**]  12:00 AM
                             [**2200-3-18**]  04:35 AM
                             [**2200-3-18**]  05:56 AM
                             [**2200-3-19**]  03:23 AM
   WBC
   17.1
   9.8
   Hct
   32.2
   29.4
   Plt
   210
   172
   Cr
   0.6
   0.4
   TropT
   0.06
   TCO2
   26
   24
   Glucose
   164
   127
   Other labs: PT / PTT / INR:26.1/38.0/2.5, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   63 yo M with HTN, DM2, hypothyroidism, AF on AC, p/w PNA c/b intubation
   and hypotension on pressors
   # respiratory failure - Patient intubated for hypoxia (90% on NRB) and
   for "airway protection".  CXR shows left sided infiltrate. Possibly,
   heathcare associated PNA or
aspiration pneumonia
 with pneumonitis
   from profound chemical burn. Right main stem was difficult to visualize
   indicating possible obstruction prompting a Bronch revealing white
   purulent material and red/angry, edematous mucosa.  ET tube suctioning
   yielded more productive sputum.  Patient did not pass SBT, weaned
   sedation and follow command, but chewed on ET tube requiring zyprexa
   prn and later failed another SBT [**1-21**] to agitation. Likely [**1-21**]
   aspiration event acutely, question if the progression of underlying
   disease.
   - vanc/zosyn D3/8 for HAP, secretions (patient lives in [**Location 122**]);
   - agitation - zyprexa prn, propofol for now, but like to go to bolus
   versed/fentanyl
   - wean vent as tolerated
 currently on [**9-23**]
 use versed/fent to get
   patient off of propofol
   - sputum cx
   - repeat CT-torsal/chest
   # hypotension - Likely secondary to sepsis.  Normal lactate; afebrile
   and pressor dependence decreasing with fluid ressucitation. It resolved
   as of 5am on [**3-19**].
   - serial CVP
   - d/c pressors
   - monitor UOP
   - still holding antihypertensives (lisinopril, metoprolol)
   - TTE for today
   # DM2
 SSI
   # AF
 Currently in NSR; INR therapeutic on admission. Is 2.3 on [**3-18**]
   - holding coumadin for now, can start heparin gtt when INR < 2.0
   - holding metoprolol
   # hypothyroidism
 Continue levothyroxine.
   # ileostomy
 Recent colectomy and ileostomy [**1-21**] severe C. diff.  Site
   appears c/d/i on physical exam.
   # depression
 Holding cymbalta, mirtazapine.
   # pain - Hold gabapentin 300 mg TID, baclofen 20 mg QID, morphine 15 mg
   QID, fentanyl as patient currently on fentanyl drip.
   - try to find out the cause; could call [**First Name4 (NamePattern1) 956**] [**Last Name (NamePattern1) 772**] or discuss with
   family
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: therapeutic INR, but will need HSQ as INR drifts down.
   Starting H2 blocker
   # Access: peripherals and right IJ
   # Code:  Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of respiratory failure
   requiring mechanical ventilation and hypotension requiring pressors
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-17**] 11:10 PM
   18 Gauge - [**2200-3-17**] 11:12 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-20 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - CT Chest: Large areas of atelectasis of the right lower lobe and left
   lower lobes in combination with superimposed pneumonia. Small bilateral
   pleural effusions.
   - TTE:Suboptimal image quality. Left ventricular wall thickness, cavity
   size and regional/global systolic function are normal (LVEF >55%).
   Right ventricular chamber size and free wall motion are normal. There
   is no valvular aortic stenosis. The increased transaortic velocity is
   likely related to high cardiac output. No aortic regurgitation is seen.
   No mitral regurgitation is seen. There is no pericardial effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-19**] 08:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-19**] 11:44 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 25 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2200-3-19**] 07:35 AM
   Fentanyl - [**2200-3-19**] 08:30 AM
   Midazolam (Versed) - [**2200-3-19**] 03:57 PM
   Famotidine (Pepcid) - [**2200-3-19**] 08:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-20**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.5
C (97.7
   HR: 96 (87 - 120) bpm
   BP: 113/77(85) {85/54(60) - 151/96(105)} mmHg
   RR: 23 (5 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 75.8 kg
             Total In:
                                                                  1,688 mL
                                                                    272 mL
   PO:
             TF:
   IVF:
                                                                  1,688 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    690 mL
   Urine:
                                                                  1,185 mL
                                                                    340 mL
   NG:
   Stool:
   350 mL
   Drains:
   Balance:
                                                                    253 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 350 (335 - 487) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///22/
   Ve: 10.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   9.5 g/dL
   89 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.4 mEq/L
   6 mg/dL
   110 mEq/L
   144 mEq/L
   29.7 %
   10.7 K/uL
        [image002.jpg]
                             [**2200-3-18**]  12:00 AM
                             [**2200-3-18**]  04:35 AM
                             [**2200-3-18**]  05:56 AM
                             [**2200-3-19**]  03:23 AM
                             [**2200-3-20**]  04:27 AM
   WBC
   17.1
   9.8
   10.7
   Hct
   32.2
   29.4
   29.7
   Plt
   [**Telephone/Fax (3) 11700**]
   Cr
   0.6
   0.4
   0.6
   TropT
   0.06
   TCO2
   26
   24
   Glucose
   164
   127
   89
   Other labs: PT / PTT / INR:23.1/39.5/2.2, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   TTE: Left ventricular wall thickness, cavity size and regional/global
   systolic function are normal (LVEF >55%). Right ventricular chamber
   size and free wall motion are normal. There is no valvular aortic
   stenosis. The increased transaortic velocity is likely related to high
   cardiac output. No aortic regurgitation is seen. No mitral
   regurgitation is seen. There is no pericardial effusion.
   CT chest:
   1. Large areas of parenchymal opacification involving bilateral lower
   lobes,
   and to a lesser extent the upper lobes, which likely reflect a
   combination of
   atelectases and pneumonia.
   2. Small bilateral pleural effusions.
   CXR (my read) [**3-20**]: Unchanged bibasilar opacities as well as perihilar
   infiltrates.  ETT 5.6 cm from carina.
   Assessment and Plan
   63 yo M with HTN, DM2, hypothyroidism, AF on AC, p/w PNA c/b intubation
   and hypotension on pressors
   # respiratory failure - Patient intubated for hypoxia (90% on NRB) and
   for "airway protection".  CXR shows left sided infiltrate. Possibly,
   heathcare associated PNA or
aspiration pneumonia
 with pneumonitis
   from profound chemical burn. Right main stem was difficult to visualize
   indicating possible obstruction prompting a Bronch revealing white
   purulent material and red/angry, edematous mucosa.  ET tube suctioning
   yielded more productive sputum.  Patient did not pass SBT, weaned
   sedation and follow command, but chewed on ET tube requiring zyprexa
   prn and later failed another SBT [**1-21**] to agitation. Likely [**1-21**]
   aspiration event acutely, question if the progression of underlying
   disease.
   - vanc/zosyn D4/8 for HAP, secretions (patient lives in [**Location 122**]);
   - agitation - zyprexa prn, propofol for now, but like to go to bolus
   versed/fentanyl
   - wean vent as tolerated
 currently on [**9-23**]
 propofol gtt stopped at
   2100
   - sputum cx
   - repeat CT-torsal/chest
   # hypotension - Likely secondary to sepsis.  Normal lactate; afebrile
   and pressor dependence decreasing with fluid ressucitation. It resolved
   as of 5am on [**3-19**].
   - serial CVP
   - d/c pressors
   - monitor UOP
   - still holding antihypertensives (lisinopril, metoprolol)
   - TTE for today
   # DM2
 SSI
   # AF
 Currently in NSR; INR therapeutic on admission. Is 2.3 on [**3-18**]
   - holding coumadin for now, can start heparin gtt when INR < 2.0
   - holding metoprolol
   # hypothyroidism
 Continue levothyroxine.
   # ileostomy
 Recent colectomy and ileostomy [**1-21**] severe C. diff.  Site
   appears c/d/i on physical exam.
   # depression
 Holding cymbalta, mirtazapine.
   # pain - Hold gabapentin 300 mg TID, baclofen 20 mg QID, morphine 15 mg
   QID, fentanyl as patient currently on fentanyl drip.
   - try to find out the cause; could call [**First Name4 (NamePattern1) 956**] [**Last Name (NamePattern1) 772**] or discuss with
   family
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: therapeutic INR, but will need HSQ as INR drifts down.
   Starting H2 blocker
   # Access: peripherals and right IJ
   # Code:  Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of respiratory failure
   requiring mechanical ventilation and hypotension requiring pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-17**] 11:10 PM
   18 Gauge - [**2200-3-17**] 11:12 PM
   Prophylaxis:
   DVT: therapeutic on warfarin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-21 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - RSBI (109), failed SBT, continued pressure support
   - gave lasix 20 mg IV x 1; put out ~800-900 cc, so gave another 40 mg
   IV x 1 last night and another 40 mg IV x 1 this AM
   - nursing concerned that patient looked to be very uncomfortable, in
   pain, so resumed mirtazepine, gabapentin, baclofen, fentanyl patch
   (home pain meds); could not get home cymbalta because it cannot be
   crushed (unclear how he was receiving this medication at [**Hospital1 69**])
   - patient still seemed uncomfortable after this, so placed back on
   fentanyl + versed gtt
   - [**3-17**] BCX returned positive [**12-23**] for GPC in pairs, clusters
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-20**] 08:24 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-21**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2200-3-20**] 05:25 PM
   Ranitidine (Prophylaxis) - [**2200-3-20**] 08:24 PM
   Fentanyl - [**2200-3-21**] 04:41 AM
   Furosemide (Lasix) - [**2200-3-21**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-21**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 80 (78 - 110) bpm
   BP: 111/70(80) {106/70(80) - 157/94(104)} mmHg
   RR: 11 (11 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 75.8 kg
    CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  3,752 mL
                                                                    904 mL
   PO:
   TF:
                                                                    841 mL
                                                                    322 mL
   IVF:
                                                                  2,277 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                  4,080 mL
                                                                  1,745 mL
   Urine:
                                                                  2,130 mL
                                                                  1,495 mL
   NG:
   Stool:
                                                                    900 mL
                                                                    250 mL
   Drains:
   Balance:
                                                                   -328 mL
                                                                   -841 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 551 (352 - 665) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 9.7 L/min
   Physical Examination
   GEN: intubated, alert and responsive
   CV: RRR
   RESP: rhonchorous throughout with no rales/wheezes
   ABD: S, NT/ND
   Labs / Radiology
   213 K/uL
   9.4 g/dL
   143 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   9 mg/dL
   108 mEq/L
   146 mEq/L
   30.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2200-3-18**]  12:00 AM
                             [**2200-3-18**]  04:35 AM
                             [**2200-3-18**]  05:56 AM
                             [**2200-3-19**]  03:23 AM
                             [**2200-3-20**]  04:27 AM
                             [**2200-3-20**]  05:04 PM
                             [**2200-3-21**]  03:58 AM
   WBC
   17.1
   9.8
   10.7
   10.6
   Hct
   32.2
   29.4
   29.7
   30.1
   Plt
   [**Telephone/Fax (3) 11717**]13
   Cr
   0.6
   0.4
   0.6
   0.6
   TropT
   0.06
   TCO2
   26
   24
   Glucose
   164
   127
   89
   115
   143
   Other labs: PT / PTT / INR:10.9/35.2/1.9, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   63 yo M with HTN, DM2, hypothyroidism, AF on AC, p/w PNA c/b intubation
   and hypotension on pressors
   # respiratory failure - Patient intubated for hypoxia (90% on NRB) and
   for "airway protection".  CXR shows left sided infiltrate. Possibly,
   heathcare associated PNA or
aspiration pneumonia
 with pneumonitis
   from profound chemical burn. Right main stem was difficult to visualize
   indicating possible obstruction prompting a Bronch revealing white
   purulent material and red/angry, edematous mucosa.  ET tube suctioning
   yielded more productive sputum.  Patient failed SBT again today.
   - vanc/zosyn D5/8 for HAP, secretions (patient lives in [**Location 122**]);
   - agitation - zyprexa prn, propofol for now, but like to go to bolus
   versed/fentanyl
   - wean vent as tolerated
 currently on [**9-23**]
   - sputum cx
   - discuss with family if they would be willing to consider trach, as
   patient may not be able to protect airway sufficiently following
   eventual extubation
   # hypotension - Likely secondary to sepsis.  Normal lactate; afebrile
   and pressor dependence decreasing with fluid ressucitation. It resolved
   as of 5am on [**3-19**].  TTE showed normal LV systolic function.
   - serial CVP
   - d/c pressors
   - monitor UOP
   - still holding antihypertensives (lisinopril, metoprolol)
   # DM2
 SSI
   # AF
 Currently in NSR; INR therapeutic on admission. Is 2.3 on [**3-18**]
   - holding coumadin for now, can start heparin gtt when INR < 2.0
   - holding metoprolol
   # hypothyroidism
 Continue levothyroxine.
   # ileostomy
 Recent colectomy and ileostomy [**1-21**] severe C. diff.  Site
   appears c/d/i on physical exam.
   # depression
 Holding cymbalta, mirtazapine.
   # pain
 on  gabapentin 300 mg TID, baclofen 20 mg QID, morphine 15 mg
   QID, fentanyl as patient currently on fentanyl drip.
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: therapeutic INR, but will need HSQ as INR drifts down.
   Starting H2 blocker
   # Access: peripherals and right IJ
   # Code:  Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of respiratory failure
   requiring mechanical ventilation and hypotension requiring pressors
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, ASPIRATION
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2200-3-20**] 10:59 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-17**] 11:10 PM
   18 Gauge - [**2200-3-17**] 11:12 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-22 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2200-3-21**] 03:57 PM
   - extubated, but failed to have a [**Last Name (LF) 2212**], [**First Name3 (LF) **] will likely be reintubated
   and trach'd.  Held coumadin and tubefeed.
   - d/c'd zosyn
   - awaiting speciation of GPC, likely contaminant
   - Continuing diuresis goal -1.5 L with IV boluses of Lasix 40mg, was
   -2L at 1845.
   - GPC pairs and cluster ([**3-17**]: 1 out of 2 blood culture - aerobic
   bottles)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-21**] 08:12 AM
   Vancomycin - [**2200-3-21**] 08:31 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2200-3-21**] 08:12 AM
   Furosemide (Lasix) - [**2200-3-21**] 11:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-22**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 81 (66 - 93) bpm
   BP: 93/57(66) {82/55(61) - 140/85(94)} mmHg
   RR: 17 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
    CVP: 7 (3 - 13)mmHg
   Total In:
                                                                  2,256 mL
                                                                    161 mL
   PO:
   TF:
                                                                    542 mL
   IVF:
                                                                  1,040 mL
                                                                    161 mL
   Blood products:
   Total out:
                                                                  4,515 mL
                                                                    350 mL
   Urine:
                                                                  4,065 mL
                                                                    200 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -2,259 mL
                                                                   -189 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 459 (459 - 529) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 5.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   233 K/uL
   10.1 g/dL
   83 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   12 mg/dL
   106 mEq/L
   145 mEq/L
   31.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2200-3-18**]  12:00 AM
                             [**2200-3-18**]  04:35 AM
                             [**2200-3-18**]  05:56 AM
                             [**2200-3-19**]  03:23 AM
                             [**2200-3-20**]  04:27 AM
                             [**2200-3-20**]  05:04 PM
                             [**2200-3-21**]  03:58 AM
                             [**2200-3-22**]  03:47 AM
   WBC
   17.1
   9.8
   10.7
   10.6
   12.2
   Hct
   32.2
   29.4
   29.7
   30.1
   31.9
   Plt
   [**Telephone/Fax (3) 11717**]13
   233
   Cr
   0.6
   0.4
   0.6
   0.6
   0.7
   TropT
   0.06
   TCO2
   26
   24
   Glucose
   164
   127
   89
   115
   143
   83
   Other labs: PT / PTT / INR:18.0/35.2/1.6, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   63 yo M with HTN, DM2, hypothyroidism, AF on AC, p/w PNA c/b intubation
   and hypotension on pressors
   .
   # respiratory failure - Patient intubated for hypoxia (90% on NRB) and
   for "airway protection".  CXR shows left sided infiltrate. Possibly,
   heathcare associated PNA or
aspiration pneumonia
 with pneumonitis
   from profound chemical burn. Right main stem was difficult to visualize
   indicating possible obstruction prompting a Bronch revealing white
   purulent material and red/angry, edematous mucosa. Received 5 days of
   zosyn. Extubated on [**3-21**] but had poor caugh
   - vanc D6/8 for GPC bacteremia, secretions
   - agitation - zyprexa prn, propofol for now, but like to go to bolus
   versed/fentanyl
   - sputum cx
   - discuss with family if they would be willing to consider trach
    .
   # pain
 on  gabapentin 300 mg TID, baclofen 20 mg QID, morphine 15 mg
   QID, fentanyl as patient currently on fentanyl drip.
   - using fentanyl patch at 50 with bolus
   - starting morphine 15 QID:Prn
   .
   # hypotension - Likely secondary to sepsis.  Normal lactate; afebrile
   and pressor dependence decreasing with fluid ressucitation. It resolved
   as of 5am on [**3-19**].  TTE showed normal LV systolic function.
   - monitor UOP
   - still holding antihypertensives (lisinopril, metoprolol)
   .
   # DM2
 SSI
   .
   # AF
 Currently in NSR; INR therapeutic on admission. Is 2.3 on [**3-18**]
   - restarted coumadin on [**3-20**]
   - holding metoprolol
   .
   # hypothyroidism
 Continue levothyroxine.
   .
   # ileostomy
 Recent colectomy and ileostomy [**1-21**] severe C. diff.  Site
   appears c/d/i on physical exam.
   .
    # depression
 Holding cymbalta, mirtazapine.
   .
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: therapeutic INR, will restart coumadin. Starting H2
   blocker
   # Access: peripherals and right IJ
   # Code:  Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of respiratory failure
   requiring mechanical ventilation and hypotension requiring pressors
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, ASPIRATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-17**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-22 12:01:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yr old hx of CVA, contractures, lives at nursing home, HTN,
   hypothyroid, DM2, afib, ex-smoker. Intubated for pneumonia, tx with
   Vanc/Zosyn
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2200-3-21**] 03:57 PM
   - extubated, but failed to have a [**Last Name (LF) 2212**], [**First Name3 (LF) **] will likely be reintubated
   and trach'd.  Held coumadin and tubefeed.
   - zosyn d/c'd
   - Continuing diuresis goal -1.5 L with IV boluses of Lasix 40mg, was
   -2L at 18:45.
   - GPC pairs and cluster ([**3-17**]: 1 out of 2 blood culture - aerobic
   bottles)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-21**] 08:12 AM
   Vancomycin - [**2200-3-22**] 08:07 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2200-3-22**] 10:00 AM
   Other medications:
   reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain location: leg and back, chronic per patient
   Flowsheet Data as of  [**2200-3-22**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 82 (66 - 93) bpm
   BP: 120/62(76) {82/54(61) - 140/85(94)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
   CVP: 7 (3 - 13)mmHg
   Total In:
                                                                  2,256 mL
                                                                    442 mL
   PO:
   TF:
                                                                    542 mL
   IVF:
                                                                  1,040 mL
                                                                    442 mL
   Blood products:
   Total out:
                                                                  4,515 mL
                                                                    550 mL
   Urine:
                                                                  4,065 mL
                                                                    400 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                 -2,259 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 459 (459 - 459) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///29/
   Ve: 5.1 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   233 K/uL
   83 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.1 mEq/L
   12 mg/dL
   106 mEq/L
   145 mEq/L
   31.9 %
   12.2 K/uL
        [image002.jpg]
                             [**2200-3-18**]  12:00 AM
                             [**2200-3-18**]  04:35 AM
                             [**2200-3-18**]  05:56 AM
                             [**2200-3-19**]  03:23 AM
                             [**2200-3-20**]  04:27 AM
                             [**2200-3-20**]  05:04 PM
                             [**2200-3-21**]  03:58 AM
                             [**2200-3-22**]  03:47 AM
   WBC
   17.1
   9.8
   10.7
   10.6
   12.2
   Hct
   32.2
   29.4
   29.7
   30.1
   31.9
   Plt
   [**Telephone/Fax (3) 11717**]13
   233
   Cr
   0.6
   0.4
   0.6
   0.6
   0.7
   TropT
   0.06
   TCO2
   26
   24
   Glucose
   164
   127
   89
   115
   143
   83
   Other labs: PT / PTT / INR:18.0/35.2/1.6, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR - improved aeration compared to [**3-21**], bilat atelect at
   bases
   Assessment and Plan
   63 yr old hx of CVA, contractures, lives at nursing home, HTN,
   hypothyroid, DM2, afib, ex-smoker.
   Extubated yesterday and no worsening in resp status. Was on vent x 3
   days. Suspect aspiration was cause of pna.
   For chronic pain, on fentanyl patch. Dose was increased this AM but
   would suggest decreasing back to 50 mcg and using intermittent morphine
   per PEG prn.
   Hypotension resolved. Tolerating diuresis, was negative 2 L yesterday.
   Stable to transfer to floor.
   ICU Care
   Nutrition: tube feeds to be restarted today
   Glycemic Control:  Regular insulin sliding scale
   Multi Lumen - [**2200-3-17**] 11:10 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   Communication: ICU consent signed Comments:
   Code status: Full code, Disposition : floor, Total time spent: 35
   minutes
   Patient is critically ill

2200-03-24 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ongoing suctioning
   - one episode of coffee ground emesis upon arrival, likely represents
   nasal bleed from trauma from repeated suction
   - febrile upon arrival to 102.0
   - UA with WBC 5, trace leuks.  No change in abx for now, UCx pending.
   - son notified of patient's return and will be here tomorrow to discuss
   future care (?trach)
   - mildly hypotensive with SBP in low 90s and poor UOP; bolused 500 cc @
   2100
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-22**] 07:38 PM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-24**] 12:10 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-24**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 38.9
C (102
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 128) bpm
   BP: 138/87(97) {74/38(47) - 154/87(103)} mmHg
   RR: 28 (9 - 32) insp/min
   SpO2: 100%
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
             Total In:
                                                                  1,799 mL
                                                                    177 mL
   PO:
             TF:
                                                                     62 mL
   IVF:
                                                                  1,587 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                    920 mL
   Urine:
                                                                    210 mL
                                                                    620 mL
   NG:
                                                                    200 mL
   Stool:
                                                                    150 mL
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,239 mL
                                                                   -743 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   253 K/uL
   8.3 g/dL
   138 mg/dL
   1.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   35 mg/dL
   114 mEq/L
   149 mEq/L
   26.7 %
   21.1 K/uL
        [image002.jpg]
                             [**2200-3-18**]  12:00 AM
                             [**2200-3-18**]  04:35 AM
                             [**2200-3-18**]  05:56 AM
                             [**2200-3-19**]  03:23 AM
                             [**2200-3-20**]  04:27 AM
                             [**2200-3-20**]  05:04 PM
                             [**2200-3-21**]  03:58 AM
                             [**2200-3-22**]  03:47 AM
                             [**2200-3-23**]  05:12 PM
                             [**2200-3-24**]  05:35 AM
   WBC
   17.1
   9.8
   10.7
   10.6
   12.2
   21.1
   Hct
   32.2
   29.4
   29.7
   30.1
   31.9
   26.7
   Plt
   [**Telephone/Fax (3) 11764**]
   Cr
   0.6
   0.4
   0.6
   0.6
   0.7
   1.6
   1.8
   TropT
   0.06
   TCO2
   26
   24
   Glucose
   164
   127
   89
   115
   143
   83
   134
   138
   Other labs: PT / PTT / INR:17.0/29.7/1.5, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   63 yo male with HTN, Type 2 DM, hypothyroidism, AF on AC, with
   recurrent aspiration transferred to the unit for hypoxia and increased
   suctioning needs.
   .
   # respiratory failure - Recently intubated for hypoxia and his current
   picture is suggestive of recurrent aspiration with weak cough.  He
   requires frequent suctioning to clear his secretions and will likely
   need trach.
   - Continue Vanco/Zosyn (day 7) for PNA given fever and persistent thick
   secretions
   - f/u sputum cx
   - discuss with family the need for trach, they will arrive at 10 AM
   today
   .
   # fever / leukocytosis - New fever this afternoon upon arrival to the
   [**Hospital Unit Name 10**] with rising WBC for days.  Most likely source is aspiration
   pneumonitis/pneumonia, but will evaluate for other hospital acquired
   infections.  CVL has been in place for 6 days as well.
   - f/up sputum culture
   - f/up urine, blood cultures
   - trend fever curve, wbc
   - f/up C. diff EIA
   .
   # ARF - Worsening Cr over the past two days, originally thought to be
   secondary to hypovolemia due to poor PO intake and was febrile.
   However, urine output adequate, no response to IVF.
   - IVF boluses prn
   - renally dose all meds (vanco dose lowered to daily, zosyn dosing
   unchanged, neurontin dose halved)
   - transduce cvp to obtain better sense of volume status
   - Urine lytes/eos to evaluate for possible ATN
   .
   # hypernatremia
 Worsened this AM to 149.
   - Plan to use IVF to correct volume deficit, followed by correction of
   water deficit.
   - Touch base with pharmacy regarding sodium load from zosyn
   .
   # coffee ground emesis
 Probably secondary to ongoing deep
   suctioning.
   - IV PPI
   - monitor stool output
   - [**Hospital1 **] Hct
   .
   # DM2 - SSI
   .
   # Afib - Currently in NSR. INR therapeutic.
   - hold coumadin as will likely need trach
   - hold metoprolol in setting of hypotension
   .
   # hypothyroidism - continue levothyroxine
   # ileostomy - Recent colectomy with ileostomy last month secondary to
   severe c. diff. Abdomen exam currently benign.
   # depression
   - hold cymbalta as it cannot be crushed
   - continue mirtazapine
   # ?pain
   - continue gabapentin 300 mg TID, baclofen 20 mg QID
   - hold fentanyl patch for now given sedation
   .
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: HSQ
   # Access: peripherals
   # Code: Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of hypoxia, and frequent
   suctioning needs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-23**] 06:29 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-25 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family meeting - trach? still thinking about it (likely will know in
   AM)
   - Sputum CX [**3-23**] = GRAM NEGATIVE ROD(S). MODERATE GROWTH
   - FeNa of 1.6 hard to interprete, CVP = 0, negative eos, question ATN
   - hyperna: increased free water
   - had melena today, placed on PPI gtt and rechecking hct - did not get
   NG lavage.
   - needed another unit prbc overnight
   - intubated in AM for EGD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-24**] 08:04 AM
   Piperacillin - [**2200-3-24**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-25**] 12:00 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-3-24**] 05:56 PM
   Heparin Sodium (Prophylaxis) - [**2200-3-24**] 10:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-25**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 88 (79 - 108) bpm
   BP: 112/72(81) {92/50(60) - 156/91(106)} mmHg
   RR: 12 (10 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
    CVP: 3 (-5 - 3)mmHg
   Total In:
                                                                  1,349 mL
                                                                  1,026 mL
   PO:
   TF:
   IVF:
                                                                    749 mL
                                                                    176 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  1,885 mL
                                                                    490 mL
   Urine:
                                                                  1,485 mL
                                                                    340 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -536 mL
                                                                    536 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GEN: NAD
   CV: RRR
   RESP: rhonchorous throughout
   ABD: ileostomy c/d/I, NT/ND
   Labs / Radiology
   234 K/uL
   8.5 g/dL
   121 mg/dL
   1.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   42 mg/dL
   112 mEq/L
   148 mEq/L
   26.4 %
   16.3 K/uL
        [image002.jpg]
                             [**2200-3-20**]  04:27 AM
                             [**2200-3-20**]  05:04 PM
                             [**2200-3-21**]  03:58 AM
                             [**2200-3-22**]  03:47 AM
                             [**2200-3-23**]  05:12 PM
                             [**2200-3-24**]  05:35 AM
                             [**2200-3-24**]  02:41 PM
                             [**2200-3-24**]  05:04 PM
                             [**2200-3-24**]  10:55 PM
                             [**2200-3-25**]  03:23 AM
   WBC
   10.7
   10.6
   12.2
   21.1
   16.3
   Hct
   29.7
   30.1
   31.9
   26.7
   26.1
   24.0
   26.4
   Plt
   194
   213
   233
   253
   234
   Cr
   0.6
   0.6
   0.7
   1.6
   1.8
   1.8
   1.9
   Glucose
   89
   115
   143
   83
   134
   138
   128
   121
   Other labs: PT / PTT / INR:18.2/29.0/1.6, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   63 yo male with HTN, Type 2 DM, hypothyroidism, AF on AC, with
   recurrent aspiration transferred to the unit for hypoxia and increased
   suctioning needs.
   # respiratory failure - Recently intubated for hypoxia and his current
   picture is suggestive of recurrent aspiration with weak cough, He
   requires frequent suctioning to clear his secretions and will likely
   need trach. He was electively intubated on [**3-25**] for EGD (see below)
   - Vent Day 1=[**3-25**], last extubated   on [**3-21**]; making sedation boluses
   available
   - Continue Vanco/Zosyn unclear date for PNA given fever and persistent
   thick secretions
   - f/u sputum cx
   - discuss with family the need for trach, they will arrive at 10 AM
   today
    .
   # coffee ground emesis
 Probably secondary to ongoing deep suctioning.
   INR is 1.6,  falling to normal after d/c coumadin. HCT from 31.9 to 24
   (4/3
[**3-24**]),
 26.4 s/p transfusion (2 units).
   - EGD today ([**3-25**])
   - IV PPI
 transition from drip to [**Hospital1 **] dosing at 5pm
   - monitor stool output
   - q8 Hct
   .
   # fever / leukocytosis - New fever this afternoon upon arrival to the
   [**Hospital Unit Name 10**] with rising WBC for days despite broad spectrum abx.  Most likely
   source is aspiration pneumonitis/pneumonia, but will evaluate for other
   hospital acquired infections.  CVL has been in place for 6 days as
   well.
   - vanc/zosyn for now, unclear day of abx
 need to followup.
   - Pull RIJ and place PICC
   - f/up sputum culture
   - f/up urine, blood cultures
   - trend fever curve, wbc
   # ARF - Worsening Cr over the past two days (0.6 to 1.9), originally
   thought to be secondary to hypovolemia due to poor PO intake and was
   febrile.  However, urine output adequate, no response to IVF. FeNa is
   1.6 on [**3-25**], Eos are negative
   - Water deficit is 2.5 Litres
   - IVF boluses prn
   - renally dose all meds (vanco dose lowered to daily, zosyn dosing
   unchanged, neurontin dose halved)
   - transduce cvp to obtain better sense of volume status
   .
   # hypernatremia
 Worsened this AM to 149.
   - Plan to use IVF to correct volume deficit, followed by correction of
   water deficit.
   - Touch base with pharmacy regarding sodium load from zosyn
   # DM2 - SSI
   # Afib - Currently in NSR. INR therapeutic.
   - hold coumadin as will likely need trach
   - hold metoprolol in setting of hypotension
   # hypothyroidism - continue levothyroxine
   # ileostomy - Recent colectomy with ileostomy last month secondary to
   severe c. diff. Abdomen exam currently benign.
   # depression
   - hold cymbalta as it cannot be crushed
   - continue mirtazapine
   # ?pain
   - continue gabapentin 300 mg TID, baclofen 20 mg QID
   - hold fentanyl patch for now given sedation
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: HSQ
   # Access: peripherals
   # Code: Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of hypoxia, and frequent
   suctioning needs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2200-3-23**] 06:29 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Critical care addendum
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. I would emphasize and
   add the following points: Continues to have thick secretions with freq
   sx needs. Family mtg held yesterday--agreeable to pursuing trach
   placement. Heme pos dark ostomoy outpt with subsequent hct drop.
   Intubated this am for EGD.
   PE:
   AF  88  112/70  12  98% ACV 500/16/5/0.4
   NAD
   coarse BS
   RR, no m
   soft, + BS, dark outpt from ostomy, g-tube site clean
   contractured, no edema
   Labs: wbc 16 (21), hct 26.4 (31->27->24, s/p 2 units), Inr 1.6, cr 1.8,
   na 148
   sputum with GNR
   A/P:  63M CVA, htn, T2DM, afib with difficulty managing his secretions
   p/f NH with recurrent aspiration pna. Course c/b blood loss
   anemia/presumed GIB, ARF, hypernatremia,
   --High risk for recurrent aspiration events witb poor secretion
   handling, now with GNRs from sputum and persistent leukocytosis despite
   aggressive antbx regimen.  Will dc vanco now s/p 8 days and now with
   supratherpeutic level.  Continue zosyn pending speciation as this was
   restarted recently and wbc is trending down. Will consult IP regarding
   trach, and will leave intubated pending that procedure. Check cxr and
   abg and adjust vent settings to optimize.  Pulm toilet and MDIs
   -In terms of blood loss anemia and melena, concern for UGI source.  His
   remains stable from hemodynamic standpoint. We continue PPI gtt, hcts,
   GI plans for EGD today.  Coumadin held and INR downtrending.
   --Creat is up, probable ATN.  Urine lytes not s/o pre-renal. BP is
   stable and UO is adequate but will follow CVP and give fluid
   challenge.  Renally dose and avoid nephrotoxins.
   --correct free water deficit
   Remainder as per resident note. ICU prophy, start sq hep. Consult for
   Picc then d/c CVL.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2200-3-25**] 05:56 PM ------

2200-03-26 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2200-3-25**] 09:50 AM
 MULTI LUMEN - STOP [**2200-3-25**] 10:00 PM
 PICC LINE - START [**2200-3-25**] 10:00 PM
   - EGD - erosive esophagitis, no source of bleeding. IV PPI [**Hospital1 **]
   - IP - going to get trach'd tomorrow; NPO at MN, holding Sq Hep
   - ESBL Pseudomonas in the sputum  --> started [**Last Name (un) 1540**] D1 is [**3-25**]
   - PICC placed
   - RIJ pulled --> sent for cx
   - 7pm HCT - 24.8 from 26.2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-24**] 08:04 AM
   Piperacillin - [**2200-3-24**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-25**] 03:38 PM
   Meropenem - [**2200-3-26**] 12:06 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2200-3-25**] 12:50 PM
   Fentanyl - [**2200-3-25**] 12:50 PM
   Heparin Sodium (Prophylaxis) - [**2200-3-25**] 03:37 PM
   Pantoprazole (Protonix) - [**2200-3-25**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-26**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 62 (62 - 100) bpm
   BP: 119/64(75) {95/55(66) - 156/94(110)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
    CVP: 4 (4 - 4)mmHg
   Total In:
                                                                  2,980 mL
                                                                    396 mL
   PO:
   TF:
   IVF:
                                                                  1,620 mL
                                                                    196 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  2,015 mL
                                                                    625 mL
   Urine:
                                                                  1,340 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    965 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/38/164/21/0
   Ve: 8 L/min
   PaO2 / FiO2: 328
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   8.3 g/dL
   120 mg/dL
   1.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   35 mg/dL
   112 mEq/L
   146 mEq/L
   25.8 %
   13.2 K/uL
        [image002.jpg]
                             [**2200-3-23**]  05:12 PM
                             [**2200-3-24**]  05:35 AM
                             [**2200-3-24**]  02:41 PM
                             [**2200-3-24**]  05:04 PM
                             [**2200-3-24**]  10:55 PM
                             [**2200-3-25**]  03:23 AM
                             [**2200-3-25**]  10:39 AM
                             [**2200-3-25**]  11:01 AM
                             [**2200-3-25**]  06:51 PM
                             [**2200-3-26**]  04:05 AM
   WBC
   21.1
   16.3
   13.7
   13.2
   Hct
   26.7
   26.1
   24.0
   26.4
   26.2
   24.8
   25.8
   Plt
   [**Telephone/Fax (3) 11786**]39
   Cr
   1.6
   1.8
   1.8
   1.9
   1.9
   1.9
   TCO2
   25
   Glucose
   134
   138
   128
   121
   117
   120
   Other labs: PT / PTT / INR:19.3/28.1/1.8, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.4 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
   63 yo male with HTN, Type 2 DM, hypothyroidism, AF on AC, with
   recurrent aspiration transferred to the unit for hypoxia and increased
   suctioning needs.
   .
   # respiratory failure - Recently intubated for hypoxia with weak cough,
   He requires frequent suctioning to clear his secretions and will likely
   need trach. His sputum has grown highly resistant Pseudomonas. He was
   electively reintubated on [**3-25**] for EGD (see below).
   - Vent Day 1=[**3-25**], last extubated   on [**3-21**]; making sedation boluses
   available --> not necessary
   - Cont Meropenem
   - trach today
    .
   # coffee ground emesis
 Probably secondary to ongoing deep suctioning.
   INR is 1.6,  falling to normal after d/c coumadin. HCT from 31.9 to 24
   (4/3
[**3-24**]),
 26.4 s/p transfusion (2 units).
   - EGD on ([**3-25**]) --> erosive esophagitis
   - IV PPI [**Hospital1 **]
   - monitor stool output
   - q8-->q12 Hct
   .
   # fever / leukocytosis - Represented to ICU with fever and rising WBC
   for days despite broad spectrum abx. Has ESBL Pseudomonas. Resolving on
   meropenem. CVL had been in place for 6 days, withdrawn on [**3-25**]
   - Meropenem x 14 days
   - PICC on [**3-25**]
   - f/up urine, blood cultures
   - trend fever curve, wbc
   .
   # ARF - Worsening Cr (0.6 to 1.9), originally thought to be secondary
   to hypovolemia due to poor PO intake and was febrile.  However, urine
   output adequate, no response to IVF. FeNa is 1.6 on [**3-25**], Eos are
   negative, but that test has extremely poor PPV/NPV. DC'd Vancomycin
   - Water deficit is 1.5 litres --> D5/1/2 NS prn
   - renally dose meds
   .
   # hypernatremia
 improved from 149 --> 146
   - Plan to use IVF to correct volume deficit, followed by correction of
   water deficit.
   .
   # DM2 - SSI
   .
   # Afib - Currently in NSR. INR therapeutic.
   - hold coumadin as will likely need trach
   - hold metoprolol in setting of hypotension
   .
   # hypothyroidism - continue levothyroxine
   .
   # ileostomy - Recent colectomy with ileostomy last month secondary to
   severe c. diff. Abdomen exam currently benign.
   .
   # depression
   - hold cymbalta as it cannot be crushed
   - continue mirtazapine
   .
   # pain
   - continue gabapentin 300 mg TID, baclofen 20 mg QID
   - hold fentanyl patch for now given sedation
   .
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Code: Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of hypoxia, and frequent
   suctioning needs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-3-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-27 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2200-3-26**] 05:50 PM
   - got trached
   - continue meropenem for 14 days
   - replete free water, d/ced vanco for renal failure
   - renal consult: consistent with ATN, probably vanc (to be staffed
   tmrw)
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-24**] 08:04 AM
   Piperacillin - [**2200-3-24**] 08:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-25**] 03:38 PM
   Meropenem - [**2200-3-27**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-3-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-27**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 65 (63 - 86) bpm
   BP: 128/70(85) {100/57(70) - 143/94(105)} mmHg
   RR: 11 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
             Total In:
                                                                  2,358 mL
                                                                  1,384 mL
   PO:
             TF:
                                                                     60 mL
                                                                    328 mL
   IVF:
                                                                  1,456 mL
                                                                    636 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                  2,665 mL
                                                                  1,430 mL
   Urine:
                                                                  1,715 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -307 mL
                                                                    -46 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 536 (134 - 536) mL
   PS : 12 cmH2O
   RR (Set): 10
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 136
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: ///23/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.6 g/dL
   147 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.5 mEq/L
   27 mg/dL
   111 mEq/L
   145 mEq/L
   26.7 %
   11.4 K/uL
        [image002.jpg]
                             [**2200-3-24**]  05:04 PM
                             [**2200-3-24**]  10:55 PM
                             [**2200-3-25**]  03:23 AM
                             [**2200-3-25**]  10:39 AM
                             [**2200-3-25**]  11:01 AM
                             [**2200-3-25**]  06:51 PM
                             [**2200-3-26**]  04:05 AM
                             [**2200-3-26**]  04:27 PM
                             [**2200-3-26**]  08:41 PM
                             [**2200-3-27**]  03:28 AM
   WBC
   16.3
   13.7
   13.2
   11.4
   Hct
   26.1
   24.0
   26.4
   26.2
   24.8
   25.8
   25.7
   25.4
   26.7
   Plt
   [**Telephone/Fax (3) 11809**]30
   Cr
   1.9
   1.9
   1.9
   1.7
   1.7
   TCO2
   25
   Glucose
   121
   117
   120
   127
   147
   Other labs: PT / PTT / INR:17.6/26.5/1.6, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   63 yo male with HTN, Type 2 DM, hypothyroidism, AF on AC, with
   recurrent aspiration transferred to the unit for hypoxia and increased
   suctioning needs.
   .
   # respiratory failure
 Very weak cough necessitating an intubation.
   While he was electively intubated for an EGU (below), his cough was so
   weak that he required tracheostomy. Trach
d on [**3-26**]. His sputum has
   grown highly resistant Pseudomonas. He was electively reintubated on
   [**3-25**] for EGD (see below).
   - Cont Meropenem D3/14
   - Trached yesterday, will wean off ventilator today, attempt trach
   collar
   .
   # ARF - Worsening Cr (0.6 to 1.9), originally thought to be secondary
   to hypovolemia due to poor PO intake and was febrile. Had brief time
   with poor UOP. Eos are negative, but that test has extremely poor
   PPV/NPV. Renal agrees likely related to Vancomycin.
   - Renally dose meds
   .
   # fever / leukocytosis - Represented to ICU with fever and rising WBC
   for days despite broad spectrum abx. Has ESBL Pseudomonas. Resolving on
   meropenem. CVL had been in place for 6 days, withdrawn on [**3-25**]
   - continue abx
   - f/u urine, blood cultures
   - trend fever curve, wbc
   .
   # coffee ground emesis
 Probably secondary to ongoing deep suctioning.
   INR is 1.8 (coumadin d/ced).  Hct now stable at ~26.
   - EGD on ([**3-25**]) --> erosive esophagitis
   - IV PPI [**Hospital1 **]
   - daily hct
   .
   # hypernatremia
 improved from 149 --> 146
   - Plan to use IVF to correct volume deficit, followed by correction of
   water deficit with D5W
   .
   # DM2 - SSI
   .
   # Afib - Currently in NSR. INR therapeutic.
   - hold coumadin as will likely need trach
   - hold metoprolol in setting of hypotension
   .
   # hypothyroidism - continue levothyroxine
   .
   # ileostomy - Recent colectomy with ileostomy last month secondary to
   severe c. diff. Abdomen exam currently benign.
   .
   # depression
   - hold cymbalta as it cannot be crushed
   - continue mirtazapine
   .
   # pain
   - continue gabapentin 300 mg TID, baclofen 20 mg QID
   - hold fentanyl patch for now given sedation
   .
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Code: Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of hypoxia, frequent
   suctioning needs, and weaning off vent
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2200-3-26**] 09:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-3-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-28 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - trach collar
   - CM aware of patient
   - hyperna getting free water (1.5 L)
   - started heparin without coumadin to see if he'll bleed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-25**] 03:38 PM
   Meropenem - [**2200-3-28**] 12:04 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-3-27**] 08:10 AM
   Pantoprazole (Protonix) - [**2200-3-27**] 08:27 PM
   Fentanyl - [**2200-3-28**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-3-28**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98
   HR: 77 (67 - 94) bpm
   BP: 124/74(86) {114/67(79) - 142/80(92)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
             Total In:
                                                                  4,725 mL
                                                                    676 mL
   PO:
             TF:
                                                                  1,153 mL
                                                                    366 mL
   IVF:
                                                                  2,557 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                    920 mL
   Urine:
                                                                  1,785 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,690 mL
                                                                   -244 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 397 (397 - 397) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   9.0 g/dL
   170 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   23 mg/dL
   111 mEq/L
   143 mEq/L
   28.2 %
   17.7 K/uL
        [image002.jpg]
                             [**2200-3-24**]  10:55 PM
                             [**2200-3-25**]  03:23 AM
                             [**2200-3-25**]  10:39 AM
                             [**2200-3-25**]  11:01 AM
                             [**2200-3-25**]  06:51 PM
                             [**2200-3-26**]  04:05 AM
                             [**2200-3-26**]  04:27 PM
                             [**2200-3-26**]  08:41 PM
                             [**2200-3-27**]  03:28 AM
                             [**2200-3-28**]  03:45 AM
   WBC
   16.3
   13.7
   13.2
   11.4
   17.7
   Hct
   24.0
   26.4
   26.2
   24.8
   25.8
   25.7
   25.4
   26.7
   28.2
   Plt
   [**Telephone/Fax (3) 11809**]30
   264
   Cr
   1.9
   1.9
   1.9
   1.7
   1.7
   1.4
   TCO2
   25
   Glucose
   121
   117
   120
   127
   147
   170
   Other labs: PT / PTT / INR:14.5/115.1/1.3, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   63 yo male with HTN, Type 2 DM, hypothyroidism, AF on AC, with
   recurrent aspiration transferred to the unit for hypoxia and increased
   suctioning needs.
   .
   # respiratory failure
 Very weak cough necessitating an intubation.
   While he was electively intubated for an EGU (below), his cough was so
   weak that he required tracheostomy. Trach
d on [**3-26**]. His sputum has
   grown highly resistant Pseudomonas. He was electively reintubated on
   [**3-25**] for EGD (see below).
   - Cont Meropenem D3/14
   - Trached [**3-26**], weaned from vent, on trach collar [**Last Name (un) 11827**]/all night
   .
   # ARF - Worsening Cr (0.6 to 1.9), originally thought to be secondary
   to hypovolemia due to poor PO intake and was febrile. Had brief time
   with poor UOP. Eos are negative, but that test has extremely poor
   PPV/NPV. Renal agrees likely related to Vancomycin.
   - Renally dose meds
   .
   # fever / leukocytosis - Represented to ICU with fever and rising WBC
   for days despite broad spectrum abx. Has ESBL Pseudomonas. Resolving on
   meropenem. CVL had been in place for 6 days, withdrawn on [**3-25**]
   - continue abx
   - f/u urine, blood cultures
   - trend fever curve, wbc
   .
   # coffee ground emesis
 Probably secondary to ongoing deep suctioning.
   INR is 1.8 (coumadin d/ced).  Hct now stable at ~26.
   - EGD on ([**3-25**]) --> erosive esophagitis
   - IV PPI [**Hospital1 **]
   - daily hct
   .
   # hypernatremia
 improved from 149 --> 146
   - Plan to use IVF to correct volume deficit, followed by correction of
   water deficit with D5W
   .
   # DM2 - SSI
   .
   # Afib - Currently in NSR. INR therapeutic.
   - hold coumadin as will likely need trach
   - hold metoprolol in setting of hypotension
   .
   # hypothyroidism - continue levothyroxine
   .
   # ileostomy - Recent colectomy with ileostomy last month secondary to
   severe c. diff. Abdomen exam currently benign.
   .
   # depression
   - hold cymbalta as it cannot be crushed
   - continue mirtazapine
   .
   # pain
   - continue gabapentin 300 mg TID, baclofen 20 mg QID
   - hold fentanyl patch for now given sedation
   .
   # FEN: IVF boluses as needed, replete electrolytes, tube feeds per NGT
   # Prophylaxis: Pneumoboots
   # Access: peripherals
   # Code: Full, confirmed with health care proxy (Son)
   # Communication: Son & wife
   # Disposition: pending clinical improvement of hypoxia, frequent
   suctioning needs, and weaning off vent
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2200-3-27**] 07:44 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-3-25**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2200-03-28 11:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2200-3-28**] 05:15 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2200-3-25**] 03:38 PM
   Meropenem - [**2200-3-28**] 12:04 AM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2200-3-28**] 08:00 AM
   Fentanyl - [**2200-3-28**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, Trache
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-20**] Mild
   Pain location: Chronic back
   Flowsheet Data as of  [**2200-3-28**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.5
C (97.7
   HR: 75 (67 - 94) bpm
   BP: 126/75(88) {114/65(79) - 142/80(92)} mmHg
   RR: 16 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76 kg (admission): 75.8 kg
   Height: 66 Inch
             Total In:
                                                                  4,725 mL
                                                                    966 mL
   PO:
             TF:
                                                                  1,153 mL
                                                                    544 mL
   IVF:
                                                                  2,557 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  3,035 mL
                                                                  1,455 mL
   Urine:
                                                                  1,785 mL
                                                                  1,305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,690 mL
                                                                   -489 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : mid insp crackles, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x2, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   264 K/uL
   170 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   23 mg/dL
   111 mEq/L
   143 mEq/L
   28.2 %
   17.7 K/uL
        [image002.jpg]
                             [**2200-3-24**]  10:55 PM
                             [**2200-3-25**]  03:23 AM
                             [**2200-3-25**]  10:39 AM
                             [**2200-3-25**]  11:01 AM
                             [**2200-3-25**]  06:51 PM
                             [**2200-3-26**]  04:05 AM
                             [**2200-3-26**]  04:27 PM
                             [**2200-3-26**]  08:41 PM
                             [**2200-3-27**]  03:28 AM
                             [**2200-3-28**]  03:45 AM
   WBC
   16.3
   13.7
   13.2
   11.4
   17.7
   Hct
   24.0
   26.4
   26.2
   24.8
   25.8
   25.7
   25.4
   26.7
   28.2
   Plt
   [**Telephone/Fax (3) 11809**]30
   264
   Cr
   1.9
   1.9
   1.9
   1.7
   1.7
   1.4
   TCO2
   25
   Glucose
   121
   117
   120
   127
   147
   170
   Other labs: PT / PTT / INR:14.5/115.1/1.3, CK / CKMB /
   Troponin-T://0.06, ALT / AST:25/26, Alk Phos / T Bili:66/0.7,
   Differential-Neuts:86.1 %, Lymph:7.3 %, Mono:6.1 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:3.0 g/dL, LDH:181 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 .H/O ATRIAL FIBRILLATION (AFIB)
 DIABETES MELLITUS (DM), TYPE II
 HYPOTHYROIDISM
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
   He continues to improve.  Secretions are copious but manageable with
   trache. Remains afebrile. Continuing 14d course of [**Last Name (un) **] for
   Pseudomonas.  Will restart coumadin at lower dose given continued abx
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2200-3-27**] 07:44 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2200-3-25**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to other facility
   Total time spent: 35 minutes